### PR TITLE
 WellFoundedness of Hydra games, and computation of Hydra(3) 

### PR DESCRIPTION
**Pull request by Seiryn21**

### CODE REVIEW

**Comment by ayberkt** [comment]
Thanks @Seiryn21 ! I will look at this more carefully, but before I do that can you fix some stylistic things?

1. We always indent with a single space.
2. We indent inside where blocks, again with a single space.

File: source/Various/Hydra.lagda [hunk 1]
```diff
@@ -0,0 +1,182 @@
...
+⊲'-is-well-founded [] = acc (λ h r → 𝟘-elim ([]-is-minimum h r))
+⊲'-is-well-founded (h ∷ hs) = acc (recurs (⊲-is-well-founded h) (⊲'-is-well-founded hs))
+ where
+  recurs : {h : Hydra} {hs : List Hydra}
+         → is-accessible _⊲_ h
+         → is-accessible _⊲'_ hs
+         → (hs' : List Hydra) → hs' ⊲' (h ∷ hs)
+         → is-accessible _⊲'_ hs'
+  recurs (acc rec₁) (acc rec₂) hs' (step₀ n here refl)      = acc rec₂
+  recurs (acc rec₁) (acc rec₂) hs' (step₀ n (next l) refl)  = acc (recurs (acc rec₁) (rec₂ _ (step₀ n l refl)))
```
Comment (martinescardo) [inline source/Various/Hydra.lagda:127]: I suggest to break this to avoid long lines:
```
recurs (acc rec₁) (acc rec₂) hs' (step₀ n (next l) refl)  = 
 acc (recurs (acc rec₁) (rec₂ _ (step₀ n l refl)))
```
Our convention, not always followed, particularly in the past, is that we should not exceed 80 columns.

File: source/Various/Hydra.lagda [hunk 2]
```diff
@@ -0,0 +1,182 @@
...
+  recurs (acc rec₁) (acc rec₂) hs' (step₁ n (next l) refl)  = acc (recurs (acc rec₁) (rec₂ _ (step₁ n l refl)))
```
Comment (martinescardo) [inline source/Various/Hydra.lagda:128]: Similarly here.

File: source/Various/Hydra.lagda [hunk 3]
```diff
@@ -0,0 +1,182 @@
...
+  recurs (acc rec₁) (acc rec₂) hs' (step₁ n (here₁ l) refl) = acc (recurs (rec₁ _ (step n (inr l) refl)) (acc rec₂))
```
Comment (martinescardo) [inline source/Various/Hydra.lagda:129]: And here, etc.

File: source/Various/Hydra.lagda [hunk 4]
```diff
@@ -0,0 +1,182 @@
...
+f-Hydra1 : f-Hydra 1 ＝ 1
+f-Hydra1 = refl
+
+f-Hydra2 : f-Hydra 2 ＝ 3
+f-Hydra2 = refl
+
+f-Hydra3 : f-Hydra 3 ＝ 37
+f-Hydra3 = refl
+
+\end{code}
```
Comment (martinescardo) [inline source/Various/Hydra.lagda:182]: Please add some links to the Hydra game at the beginning of the file. For example,
[1] https://en.wikipedia.org/wiki/Hydra_game

[2] Kirby, Laurie; Paris, Jeff. Bull. Accessible independence results for Peano arithmetic.
     London Math. Soc, 14 (1982), 285-293.
     http://logic.amu.edu.pl/images/3/3c/Kirbyparis.pdf

Also please add a sentence at the very beginning of the file, after your name, describing what this file does.

Thanks for your contribution!

**Review by martinescardo — CHANGES_REQUESTED** [review]

**Review by martinescardo — APPROVED** [review]
Great!

**Comment by ayberkt** [comment]
Fixes #159.
